Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest discomfort
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with past medical history
of afib on apixiban, HTN, HLD, T2DM on medication, who presents
to the ED with c/o chest tightness.  He reportedly woke up this
morning with a headache, palpitations and a sense of chest
tightness at 04:00. The chest tightness is poorly characterized
but is reportedly intermittent, and he was chest pain free upon
assessment in the ED. He denies any associated fever, shortness
of breath, abdominal pain, nausea, vomiting or diarrhea. 

In the ED initial vitals were: 
T97.5 HR98 BP118/64 RR118 O2-98 RA 
Exam:
Head NC/AT
HR 110-140s, irregularly irregular
CTA bilaterally, no wheezes or crackles
Abdomen soft and nontender
Skin warm and dry
No peripheral edema

EKG:  afib RVR 
Labs/studies notable for:
Cr 1.5
Trop <0.01

CXR:
No acute intrathoracic process. 

Patient was given:
He received 5mg IV Metoprolol x2, PO Metoprolol with no
improvement. He was subsequently started on IV diltiazem with
improvement of rates to ___. Received total of 3L IVF in ED. 
 
___ 12:05 IV Metoprolol Tartrate 5 mg  
___ 12:08 PO Aspirin 324 mg 
___ 12:53 IV Metoprolol Tartrate 5 mg 
___ 13:06 PO Metoprolol Succinate XL 12.5 mg  
___ 14:21 IV Calcium Gluconate 1 g 
___ 14:30 IV BOLUS Diltiazem 20 mg 
___ 15:17 PO/NG Diltiazem 30 mg  

On the floor, he endorses the above history. Interview performed
with daughter and RN translating at bedside. He reports that the
chest tightness and headache resolved once he received
medications in the ED. He was diagnosed with afib last ___
when he had a similar presentation in ___. He has not 
had
any similar episodes since then. Denies any recent medication
changes. He is without chest tightness, palpitations, headache,
or any other symptoms at this time. He denies any shortness of
breath at any point, lightheadedness, dizziness, fevers, chills,
cough, abdominal pain, nausea, vomiting, diarrhea, dysuria, leg
swelling, orthopnea. At baseline he can climb >1 flight of 
stairs
and walk for over an hour without shortness of breath. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- afib on apixaban 
3. OTHER PAST MEDICAL HISTORY  
-none

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 24 HR Data (last updated ___
    Temp: 98.6 (Tm 98.6), BP: 126/65, HR: 71, RR: 16, O2 sat:
95%, O2 delivery: RA  
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
HEENT: Normocephalic atraumatic. Sclera anicteric.  EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 

NECK: Supple. JVP at clavicle.   
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops.  
LUNGS:  Respiration is unlabored with no accessory muscle use.
CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM:
========================
VITALS: T 98.4 F, BP 128/65, HR 71, RR 18, 97% on RA
GENERAL: Well developed, well nourished in NAD.  
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use. 
CTAB, no crackles, wheezes or rhonchi.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  

 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:49AM BLOOD WBC-7.9 RBC-4.06* Hgb-12.4* Hct-38.4* 
MCV-95 MCH-30.5 MCHC-32.3 RDW-13.6 RDWSD-46.8* Plt ___
___ 11:49AM BLOOD Neuts-61.3 ___ Monos-8.4 Eos-1.8 
Baso-0.4 Im ___ AbsNeut-4.82 AbsLymp-2.18 AbsMono-0.66 
AbsEos-0.14 AbsBaso-0.03
___ 02:06PM BLOOD ___ PTT-36.5 ___
___ 11:49AM BLOOD Glucose-154* UreaN-25* Creat-1.5* Na-138 
K-4.7 Cl-101 HCO3-23 AnGap-14
___ 11:49AM BLOOD Calcium-10.1 Phos-3.4 Mg-2.2
___ 06:27PM BLOOD TSH-1.4
___ 11:49AM BLOOD cTropnT-<0.01
___ 06:27PM BLOOD cTropnT-<0.01
___ 07:15AM BLOOD cTropnT-<0.01 proBNP-___

PERTINENT IMAGING:
===================
___ CXR:
No acute intrathoracic process.

___ TTE:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. The estimated right atrial pressure
is ___ mmHg. There is normal left ventricular wall thickness 
with a normal cavity size. There is normal
regional and global left ventricular systolic function. 
Quantitative biplane left ventricular ejection
fraction is 75 %. Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is no resting left
ventricular outflow tract gradient. Normal right ventricular 
cavity size with normal free wall motion. Tricuspid
annular plane systolic excursion (TAPSE) is normal. The aortic 
sinus diameter is normal for gender with
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal descending
aorta diameter. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis.
There is mild to moderate [___] aortic regurgitation. The 
mitral valve leaflets are mildly thickened with no
mitral valve prolapse. There is trivial mitral regurgitation. 
The pulmonic valve leaflets are normal. The
tricuspid valve leaflets appear structurally normal. There is 
mild to moderate [___] tricuspid regurgitation.
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion.
IMPRESSION: 1) Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/
global systolic function. 2) Mild to moderate tricuspid 
regurgitation in setting of mild pHTN and
normal RV size/function. 3) Mild to moderate aortic 
regurgitation.

DISCHARGE LABS:
===============
___ 07:15AM BLOOD WBC-6.4 RBC-3.40* Hgb-10.4* Hct-32.3* 
MCV-95 MCH-30.6 MCHC-32.2 RDW-14.0 RDWSD-48.3* Plt ___
___ 07:15AM BLOOD Glucose-111* UreaN-23* Creat-1.5* Na-144 
K-4.3 Cl-110* HCO3-23 AnGap-11
___ 07:15AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.___ year old man with past medical history of afib on apixiban, 
HTN, HLD, T2DM on medication, who presents to the ED with c/o 
chest tightness and headache, found to be in afib with RVR. S/p 
IV metoprolol, IV diltiazem, and increase in home metoprolol. 
Now back in sinus rhythm with rates controlled.

===============  
ACTIVE ISSUES:  
===============  

#Afib with RVR: 
Presented with chest tightness and headache and found to have 
afib with rates in 110s-130s. Given IV metop, IV diltiazem, and 
3L NS in the ED with conversion back to NSR. Acute trigger 
unclear. Unlikely ACS given EKG without ischemic changes and 
troponin less than assay x2 in ED. TTE showed no RWMA, or e/o 
CHF. TSH wnl. Pt was continued on home apixaban 5 mg BID, home 
metoprolol was increased to 50 mg QD.

___ vs. CKD: 
Cr 1.5 on admission, which is likely baseline given review of 
prior labs. Resumed home losartan-HCTZ prior to discharge.

================  
CHRONIC ISSUES:  
================  

#T2DM: Metformin restarted prior to discharge.

#HTN: Blood pressures currently well-controlled. Continued home 
amlodipine 5 mg QD, restarted home losartan-HCTZ prior to 
discharge.  

#HLD: Continued home atorvastatin 40 mg QD.

TRANSITIONAL ISSUES:
====================
[ ] F/u BP, HR and adjust home BP/HR medications as below.
[ ] Metoprolol increased to 50 mg QD.
[ ] TTE with mild to moderate tricuspid regurgitation in setting 
of mild pHTN and normal RV size/function. Mild to moderate 
aortic regurgitation.

================================================
# LANGUAGE: ___ 
# CODE STATUS:  full confirmed 
# CONTACT: ___ (daughter) ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. amLODIPine 5 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. MetFORMIN (Glucophage) 850 mg PO BID 
6. losartan-hydrochlorothiazide 100-12.5 mg oral DAILY 
7. Aspirin EC 81 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 50 mg PO DAILY 
Please start taking ___ when you arrive at home.  
2.  amLODIPine 5 mg PO DAILY  
3.  Apixaban 5 mg PO BID  
4.  Aspirin EC 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  losartan-hydrochlorothiazide 100-12.5 mg oral DAILY  
7.  MetFORMIN (Glucophage) 850 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Atrial Fibrillation

SECONDARY DIAGNOSIS
===================
Diabetes Mellitus Type 2
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to be part of your care. 

You presented to the hospital with headache and chest discomfort 
and were found to have elevated heart rates due to your abnormal 
heart rhythm (atrial fibrillation). You underwent an 
echocardiogram (ultrasound of your heart) which showed no 
concerning abnormalities. 

We increased your metoprolol (heart rate medication) to help 
control your heart rates better.

If you experience any recurrent chest discomfort or difficulty 
breathing, then please seek medical attention. 

We wish you the best,
Your ___ Team
 
Followup Instructions:
___